US07365085B2
c) (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(3-morpholin-4-yl-phenoxy)-propyl]-amine hydrochloride salt
A stirring solution of 3-[(2-chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propan-1-ol (282 mg, 0.38 mmol) in toluene (25 mL) was treated with 3-morpholin-4-yl-phenol (75 mg, 0.42 mmol). Polymer bound triphenylphosphine (224 mg, 0.67 mmol, 3 mmol/g, Fluka Chemie) was then added, and the mixture was stirred for 15 minutes. The reaction mixture was then cooled to 0° C. and diisopropylazodicarboxylate (127 mg, 0.63 mmol) was added in a dropwise fashion. After stirring at room temperature overnight, the crude reaction mixture was filtered and the solid washed with toluene (25 mL). The filtrate was concentrated in vacuo. Purification by preparative HPLC (YMC 75×30 mm, 25 ml/min, 85-100% CH3CN over) led to the isolation of the morpholine product. The free base was treated with 1 M HCl in Et2O (0.1 ml) and the mixture was concentrated in vacuo to afford the title compound as a solid, 104 mg (41%). MS(ES) m/e 609.4 (M+).

reactant | 3-[(2-chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propan-1-ol | 0.38 mmol, 282 mg | ClC1=C(CN(CCCO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C25H25ClF3NO
reactant | 3-morpholin-4-yl-phenol | 0.42 mmol, 75 mg | N1(CCOCC1)C=1C=C(C=CC1)O | C10H13NO2
reactant | triphenylphosphine | 0.67 mmol, 224 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.63 mmol, 127 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(3-morpholin-4-yl-phenoxy)-propyl]-amine hydrochloride salt | Cl.ClC1=C(CN(CCCOC2=CC(=CC=C2)N2CCOCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C35H36ClF3N2O2.ClH/c36-34-29(14-7-17-33(34)35(37,38)39)25-40(26-32(27-10-3-1-4-11-27)28-12-5-2-6-13-28)18-9-21-43-31-16-8-15-30(24-31)41-19-22-42-23-20-41;/h1-8,10-17,24,32H,9,18-23,25-26H2;1H
